US08058456B2
To a solution of ethyl 2,5-dioxopyrrolidine-3-carboxylate (3.92 g) in ethyl acetate (60 ml) was added dibenzyl azodicarboxylate (7.27 g), followed by potassium carbonate (317 mg) at room temperature. After this mixture was stirred at room temperature for 1 hour, the mixture was filtered through a Celite pad. The filtrate was concentrated and the resulting residue was purified by a flash column chromatography (hexane:ethyl acetate=2:1) to give the ethyl 3-[N,N′-bis(benzyloxycarbonyl)hydrazino]-2,5-dioxopyrrolidine-3-carboxylate (10.1 g, 94%) as amorphous.

reactant | ethyl 2,5-dioxopyrrolidine-3-carboxylate | 3.92 g | O=C1NC(CC1C(=O)OCC)=O | C7H9NO4
reactant | dibenzyl azodicarboxylate | 7.27 g | N(=NC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C16H14N2O4
reactant | potassium carbonate | 317 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 3-[N,N′-bis(benzyloxycarbonyl)hydrazino]-2,5-dioxopyrrolidine-3-carboxylate | 10.1 g, 94% | C(C1=CC=CC=C1)OC(=O)N(NC(=O)OCC1=CC=CC=C1)C1(C(NC(C1)=O)=O)C(=O)OCC | C23H23N3O8
